US04487764
(a) Z-Tyr(But)-Gly-OEt
6.4 ml (50 mmoles) of N-ethylmorpholine and 11.33 g (55 mmoles) of DCC are added at 0° C. and while stirring to a solution of 18.55 g (50 mmoles) of Z-Tyr(But)-OH, 6.98 g (50 mmoles) of H-Gly-OEt.HCl and 6.75 g (50 mmoles) of HOBt in 75 ml of dimethylformamide. The mixture is stirred for 2 hours at 0° C. and is allowed to stand overnight at room temperature. The precipitate is filtered off and the filtrate is concentrated in a high vacuum. The residue is partitioned between ethyl acetate and water. The ethyl acetate phase is extracted by shaking with NaHCO3 solution, a KHSO4 /K2SO4 buffer and water, and is dried over Na2SO4 and concentrated. The residue is dissolved in diisopropyl ether. Undissolved material is filtered off and petroleum ether is added to the filtrate. The mixture is cooled for a few hours in an ice bath and the precipitate is filtered off. Yield 20.63 g (89%), melting point 108° C. [α]D22 =-13.4° (c=1, methanol).

reactant | N-ethylmorpholine | 50 mmoles, 6.4 ml | C(C)N1CCOCC1 | C6H13NO
reactant | DCC | 55 mmoles, 11.33 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Z-Tyr(But)-OH | 50 mmoles, 18.55 g | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C21H25NO5
reactant | H-Gly-OEt.HCl | 50 mmoles, 6.98 g | NCC(=O)OCC.Cl
reactant | HOBt | 50 mmoles, 6.75 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | Z-Tyr(But)-Gly-OEt | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)NCC(=O)OCC)C(=O)OCC1=CC=CC=C1 | C25H32N2O6
